US06051678
8.9 g of 3-(t-butoxycarbonyl)-1-vinyl-2-pyrrolidinone (BCVP) was dissolved in 50 ml of tetrahydrofuran free of moisture. To this solution 1.0 g of sodium hydride and 4.4 g of 2-chlorotetrahydrofuran were added and allowed to react at room temperature for 1 hour. This solution was diluted with diethylether and washed many times with pure water. The organic solvent of the organic phase was evaporated and the residue was subjected to silica gel column chromatography, to obtain 9.3 g of pure 3-(tetrahydrofuranyloxycarbonyl)-1-vinyl-2-pyrrolidinone (hereinafter referred to as "TFVP"). Its chemical structure was determined by IR spectra and NMR.

reactant | 3-(t-butoxycarbonyl)-1-vinyl-2-pyrrolidinone | 8.9 g | C(C)(C)(C)OC(=O)C1C(N(CC1)C=C)=O | C11H17NO3
reactant | sodium hydride | 1.0 g | [H-].[Na+]
reactant | 2-chlorotetrahydrofuran | 4.4 g | ClC1OCCC1 | C4H7ClO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | diethylether | C(C)OCC | C4H10O
product | 3-(tetrahydrofuranyloxycarbonyl)-1-vinyl-2-pyrrolidinone | 9.3 g | O1C(CCC1)OC(=O)C1C(N(CC1)C=C)=O | C11H15NO4
